US08440662B2
Step 3: 4-[3-(4-Bromo-phenyl)-ureido]-N-(2-dimethylamino-ethyl)-N-methyl-benzamide
To a solution of 4-amino-N-(2-dimethylamino-ethyl)-N-methyl-benzamide (4.0 g, 0.01809 mol) and TEA (2.01 g, 0.01809 mol) in DCM (50 mL) was added 4-bromophenyl isocyanate (4.3 g, 0.0217 mol). The reaction mixture was stirred at room temperature for 12 h. The white solid was obtained and was filtered and dried to afford the title compound [5.0 g, 67%]; LC-MS (ESI): Calculated mass: 418.1; Observed mass: 421.1 [M+H]+ (RT: 1.23 min).

reactant | 4-amino-N-(2-dimethylamino-ethyl)-N-methyl-benzamide | 0.01809 mol, 4.0 g | NC1=CC=C(C(=O)N(C)CCN(C)C)C=C1 | C12H19N3O
reactant | 4-bromophenyl isocyanate | 0.0217 mol, 4.3 g | BrC1=CC=C(C=C1)N=C=O | C7H4BrNO
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 4-[3-(4-Bromo-phenyl)-ureido]-N-(2-dimethylamino-ethyl)-N-methyl-benzamide | 5.0 g, 67% | BrC1=CC=C(C=C1)NC(NC1=CC=C(C(=O)N(C)CCN(C)C)C=C1)=O | C19H23BrN4O2
